US05516907
4-[5-(4-[Methylthio]phenyl)-3-(difluoromethyl)-1H-pyrazol-1-yl]benzenesulfonamide (0.5 g, 1.27 mmol) was dissolved in methylene chloride (30 mL) and cooled to 0° C. To this solution was added m-chloroperoxybenzoic acid (MCPBA) (60%, 0.77 g, 2.7 mmol) and the solution was allowed to warm to room temperature while stirring for 18 hours. A solution of Na2S2O5 (2 g) in H2O (25 mL) was added to the reaction mixture and the solution stirred vigorously for 0.5 hour. The layers were separated and the organic layer was washed with saturated NaHCO3 (30 mL) and brine (30 mL), dried over Na2SO4 and concentrated to yield 4-[5-4-[methylsulfonyl]phenyl)-3-(difluoromethyl)-1H-pyrazol-1-yl]benzenesulfonamide as a white solid, 0.22 g, 40%, mp=209°-210° C.

reactant | 4-[5-(4-[Methylthio]phenyl)-3-(difluoromethyl)-1H-pyrazol-1-yl]benzenesulfonamide | 1.27 mmol, 0.5 g | CSC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)S(=O)(=O)N)C(F)F | C17H15F2N3O2S2
reactant | m-chloroperoxybenzoic acid | 2.7 mmol, 0.77 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 25 mL | O | H2O
product | benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
